US06353006B1
2-(2-Methyl-4-nitrophenylimino)-1,3-thiazolidine was prepared in a manner analogous to that described in method C2a and was alkylated with 1-bromo-3,3-dimethyl-2-butanone in a manner analogous to that described in Method D2a to give 2-(2-methyl-4-nitrophenylimino)-3-(3,3-dimethyl-2-oxobutyl)-1,3-thiazolidine. To a solution of 2-(2-methyl-4-nitrophenylimino)-3-(3,3-dimethyl-2-oxobutyl)-1,3-thiazolidine (0.022 g, 0.065 mmol) in MeOH (2 mL) was added NaBH4 (0.0096 g, 0.26 mmol) in portions. The resulting mixture was stirred at room temp for 4 h, then was separated between EtOAc (10 mL) and H2O (5 mL) and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layers were sequentially washed with H2O (15 mL), a saturated NaCl solution (15 mL), dried (Na2SO4), and concentrated under reduced pressure. The residue was purified by preparative TLC (20% EtOAc/hexane) to yield 2-(2-methyl-4-nitrophenylimino)-3-(3,3-dimethyl-2-hydroxybutyl)-1,3-thiazolidine (0.024 g, 92%); FAB-MS m/z 338 ((M+H)+).

reactant | 2-(2-methyl-4-nitrophenylimino)-3-(3,3-dimethyl-2-oxobutyl)-1,3-thiazolidine | 0.065 mmol, 0.022 g | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCCN1CC(C(C)(C)C)=O | C16H21N3O3S
reactant | NaBH4 | 0.26 mmol, 0.0096 g | [BH4-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | 2-(2-methyl-4-nitrophenylimino)-3-(3,3-dimethyl-2-hydroxybutyl)-1,3-thiazolidine | 0.024 g, 92% | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCCN1CC(C(C)(C)C)O | C16H23N3O3S
